US06680317B2
a) 2-Chloro-4-fluorophenylisothiocyanate
Into a solution of 2-chloro-4fluoroaniline (500 mg, 3.44 mmol) in a mixture of chloroform and water (10 mL/10 mL) at room temperature, thiophosgene (0.53 mL, 6.88 mmol) and sodium bicarbonate (1.09 g, 10.32 mmol) were added. The mixture was stirred at room temperature for 16 hours. The mixture was partitioned between chloroform and water. The combined organic layer was then concentrated to give the desired product (586 mg, 91%). 1H NMR (CDCl3) δ 6.98 (m, 1H), 7.20 (m, 2H).

reactant | 2-chloro-4fluoroaniline | 3.44 mmol, 500 mg | ClC1=C(N)C=CC(=C1)F | C6H5ClFN
reactant | thiophosgene | 6.88 mmol, 0.53 mL | C(=S)(Cl)Cl | CCl2S
reactant | sodium bicarbonate | 10.32 mmol, 1.09 g | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 10 mL | O | H2O
product | 2-Chloro-4-fluorophenylisothiocyanate | 586 mg, 91% | ClC1=C(C=CC(=C1)F)N=C=S | C7H3ClFNS
